US07635715B2
Step F: Preparation of Ethyl 4-hydroxy-1,1-dimethyl-2-oxo-5-(trifluoromethyl)-naphthalene-3-carboxylate
Benzaldehyde oxime (112 mg, 0.92 mmol) in 6 mL dry DMF under argon, was added via syringe to a suspension of NaH (22 mg, 0.92 mmol) in dry dioxane (6 mL) under argon at room temperature. The mixture was stirred for 30 minutes, and ethyl 3-(2-(1-ethoxy-2-methyl-1-oxopropan-2-yl)-6-(trifluoromethyl)phenyl)propiolate (275 mg, 0.77 mmol) was added as a solution in dry DMF (6 mL) via syringe. The reaction was stirred at room temperature for 11 hours. The dioxane was removed under vacuum, and the remaining DMF was partitioned between EtOAc and water. The layers were separated, and the organic layer was washed with twice with water and once with brine. The combined aqueous extracts were back extracted twice with EtOAc, and these organic layers were added to the organic layer already obtained. The combined extracts were dried over MgSO4, concentrated under vacuum, and the resulting residue was purified by column chromatography to give the product as a light yellow oil (50 mg). MS (m/z)=329 (M+H)+

reactant | Benzaldehyde oxime | 0.92 mmol, 112 mg | C(C1=CC=CC=C1)=NO | C7H7NO
reactant | NaH | 0.92 mmol, 22 mg | [H-].[Na+]
reactant | ethyl 3-(2-(1-ethoxy-2-methyl-1-oxopropan-2-yl)-6-(trifluoromethyl)phenyl)propiolate | 0.77 mmol, 275 mg | C(C)OC(C(C)(C)C1=C(C(=CC=C1)C(F)(F)F)C#CC(=O)OCC)=O | C18H19F3O4
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
solvent | dioxane | 6 mL | O1CCOCC1 | C4H8O2
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | Ethyl 4-hydroxy-1,1-dimethyl-2-oxo-5-(trifluoromethyl)-naphthalene-3-carboxylate | 50 mg | OC1=C(C(C(C2=CC=CC(=C12)C(F)(F)F)(C)C)=O)C(=O)OCC | C16H15F3O4
